US04645527
To 140 mL of methyl ethyl ketone was added 14.3 g of 3-chloro-N,N-dimethyl-1,2-benzenedisulfonamide, 7.2 g of potassium carbonate and 7.5 ml of n-butyl isocyanate. This mixture was heated at reflux temperature for 3 hours, cooled to room temperature, poured into 1500 mL of ice water, and acidified to pH 1 with concentrated hydrochloric acid. The resulting precipitate was collected, washed with water, and dried to afford 17.4 g of N'-butylaminocarbonyl-3-chloro-N,N-dimethyl-1,2-benzenedisulfonamide as a white powder, m.p. 107°-115° C.; NMR (CDCl3): δ0.9 (br t, 3H), 1.2-1.7 (m, 4H), 3.0 (s, 6H), 3.3-3.4 (m, 2H), 6.6 (t, 1H), 7.6-8.0 (m, 2H), 8.5 (dd, 1H), 9.0 (br s, 1H).

reactant | 3-chloro-N,N-dimethyl-1,2-benzenedisulfonamide | 14.3 g | ClC1=C(C(=CC=C1)S(=O)(=O)N(C)C)S(=O)(=O)N | C8H11ClN2O4S2
reactant | potassium carbonate | 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl isocyanate | 7.5 ml | C(CCC)N=C=O | C5H9NO
reactant | hydrochloric acid | Cl | ClH
solvent | methyl ethyl ketone | 140 mL | C(C)C(=O)C | C4H8O
product | N'-butylaminocarbonyl-3-chloro-N,N-dimethyl-1,2-benzenedisulfonamide | 17.4 g | C(CCC)NC(=O)NS(=O)(=O)C=1C(=CC=CC1Cl)S(=O)(=O)N(C)C | C13H20ClN3O5S2
